US06239151B1
A solution of 7.54 g of (E)-4-cyclohexyl-2-butenol in 200 ml of diethyl ether was treated with 9.99 g of acetic anhydride and 7.42 g of triethylamine and stirred overnight at room temperature. The mixture was then treated with 0.005 g of 4-dimethylaminopyridine and stirred for a further 0.5 hours. The mixture was washed with 5% aqueous sodium hydrogen carbonate, water and brine, then dried over anhydrous magnesium sulphate and evaporated. The residue was dried under vacuum to give 9.50 g of (E)-4-cyclohexyl-2-butenol acetate in the form of a pale yellow oil.

reactant | (E)-4-cyclohexyl-2-butenol | 7.54 g | C1(CCCCC1)C/C=C/CO | C10H18O
reactant | acetic anhydride | 9.99 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 7.42 g | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
catalyst | 4-dimethylaminopyridine | 0.005 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (E)-4-cyclohexyl-2-butenol acetate | 9.50 g | C(C)(=O)OC\C=C\CC1CCCCC1 | C12H20O2
